US04868256
3-Bromo-4-acetoxy-5-methylstyrene
A mixture of 28 g 1-(3'-bromo-4'-acetoxy-5'-methylphenyl)ethanol and 0.5 g freshly prepared potassium hydrogen sulfate is heated under a 20 Torr vacuum to 190°-200° C. The distillate is transferred to an ice-filled reaction vessel which contains 2 g t-butylhydroquinone. After 2h, the distillate is taken up in ether, the ether phases are treated with a5% sodium carbonate solution and dried, then the solvent is distilled off under vacuum. At 0.05 Torr, 6.8 g of an impure product is obtained at a temperature of 86°to 89° C., from which 18 g of pure monomercan be obtained.

reactant | 1-(3'-bromo-4'-acetoxy-5'-methylphenyl)ethanol | 28 g | BrC=1C=C(C=C(C1OC(C)=O)C)C(C)O | C11H13BrO3
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
reactant | t-butylhydroquinone | 2 g | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
product | 3-Bromo-4-acetoxy-5-methylstyrene | 6.8 g | BrC=1C=C(C=C)C=C(C1OC(C)=O)C | C11H11BrO2
